***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD18532Q5B
* Date: 12/04/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS322 - November 2012
*
*****************************************************************************
*$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD18532Q5B  -  PSpice Model for use with OrCAD                    *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.9446E-09	)
+	(	0.5	1.9128E-09	)
+	(	1	1.8813E-09	)
+	(	1.5	1.8594E-09	)
+	(	2	1.8424E-09	)
+	(	2.5	1.8282E-09	)
+	(	3	1.8155E-09	)
+	(	3.5	1.8053E-09	)
+	(	4	1.7955E-09	)
+	(	4.5	1.7879E-09	)
+	(	5	1.7805E-09	)
+	(	5.5	1.7744E-09	)
+	(	6	1.7692E-09	)
+	(	6.5	1.7684E-09	)
+	(	7	1.7729E-09	)
+	(	7.5	1.7763E-09	)
+	(	8	1.81706E-09	)
+	(	8.5	1.86061E-09	)
+	(	9	1.85401E-09	)
+	(	9.5	1.85212E-09	)
+	(	10	1.84909E-09	)
+	(	10.5	1.84693E-09	)
+	(	11	1.84467E-09	)
+	(	11.5	1.84335E-09	)
+	(	12	1.84097E-09	)
+	(	12.5	1.83953E-09	)
+	(	13	1.83804E-09	)
+	(	13.5	1.8355E-09	)
+	(	14	1.83393E-09	)
+	(	14.5	1.83334E-09	)
+	(	15	1.83171E-09	)
+	(	15.5	1.83006E-09	)
+	(	16	1.82938E-09	)
+	(	16.5	1.82767E-09	)
+	(	17	1.82695E-09	)
+	(	17.5	1.82521E-09	)
+	(	18	1.82446E-09	)
+	(	18.5	1.82369E-09	)
+	(	19	1.8219E-09	)
+	(	19.5	1.8211E-09	)
+	(	20	1.81928E-09	)
+	(	20.5	1.81845E-09	)
+	(	21	1.81762E-09	)
+	(	21.5	1.81577E-09	)
+	(	22	1.81492E-09	)
+	(	22.5	1.81305E-09	)
+	(	23	1.81217E-09	)
+	(	23.5	1.81129E-09	)
+	(	24	1.8094E-09	)
+	(	24.5	1.8085E-09	)
+	(	25	1.8066E-09	)
+	(	25.5	1.80569E-09	)
+	(	26	1.80378E-09	)
+	(	26.5	1.80286E-09	)
+	(	27	1.80094E-09	)
+	(	27.5	1.8E-09	)
+	(	28	1.79907E-09	)
+	(	28.5	1.79713E-09	)
+	(	29	1.79519E-09	)
+	(	29.5	1.79424E-09	)
+	(	30	1.79329E-09	)
+	(	30.5	1.79133E-09	)
+	(	31	1.79038E-09	)
+	(	31.5	1.78842E-09	)
+	(	32	1.78647E-09	)
+	(	32.5	1.78551E-09	)
+	(	33	1.78354E-09	)
+	(	33.5	1.78157E-09	)
+	(	34	1.7806E-09	)
+	(	34.5	1.77863E-09	)
+	(	35	1.77767E-09	)
+	(	35.5	1.77569E-09	)
+	(	36	1.77371E-09	)
+	(	36.5	1.77274E-09	)
+	(	37	1.77076E-09	)
+	(	37.5	1.76878E-09	)
+	(	38	1.76679E-09	)
+	(	38.5	1.76481E-09	)
+	(	39	1.76383E-09	)
+	(	39.5	1.76184E-09	)
+	(	40	1.75986E-09	)
+	(	40.5	1.75787E-09	)
+	(	41	1.75688E-09	)
+	(	41.5	1.75489E-09	)
+	(	42	1.7529E-09	)
+	(	42.5	1.7509E-09	)
+	(	43	1.74891E-09	)
+	(	43.5	1.74691E-09	)
+	(	44	1.74492E-09	)
+	(	44.5	1.74392E-09	)
+	(	45	1.74192E-09	)
+	(	45.5	1.73992E-09	)
+	(	46	1.73793E-09	)
+	(	46.5	1.73593E-09	)
+	(	47	1.73393E-09	)
+	(	47.5	1.73293E-09	)
+	(	48	1.73093E-09	)
+	(	48.5	1.72892E-09	)
+	(	49	1.72692E-09	)
+	(	49.5	1.72491E-09	)
+	(	50	1.72288E-09	)
+	(	50.5	1.72084E-09	)
+	(	51	1.71877E-09	)
+	(	51.5	1.71668E-09	)
+	(	52	1.71458E-09	)
+	(	52.5	1.71252E-09	)
+	(	53	1.71041E-09	)
+	(	53.5	1.70826E-09	)
+	(	54	1.70607E-09	)
+	(	54.5	1.7039E-09	)
+	(	55	1.70187E-09	)
+	(	55.5	1.70085E-09	)
+	(	56	1.69883E-09	)
+	(	56.5	1.69681E-09	)
+	(	57	1.69479E-09	)
+	(	57.5	1.69277E-09	)
+	(	58	1.69076E-09	)
+	(	58.5	1.68874E-09	)
+	(	59	1.68673E-09	)
+	(	59.5	1.68471E-09	)
+	(	60	1.6817E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
 +	(	0	2.564E-10	)
+	(	0.5	2.572E-10	)
+	(	1	2.557E-10	)
+	(	1.5	2.526E-10	)
+	(	2	2.486E-10	)
+	(	2.5	2.438E-10	)
+	(	3	2.385E-10	)
+	(	3.5	2.337E-10	)
+	(	4	2.285E-10	)
+	(	4.5	2.231E-10	)
+	(	5	2.175E-10	)
+	(	5.5	2.116E-10	)
+	(	6	2.038E-10	)
+	(	6.5	1.936E-10	)
+	(	7	1.791E-10	)
+	(	7.5	1.647E-10	)
+	(	8	8.394E-11	)
+	(	8.5	2.539E-11	)
+	(	9	2.499E-11	)
+	(	9.5	2.388E-11	)
+	(	10	2.291E-11	)
+	(	10.5	2.207E-11	)
+	(	11	2.133E-11	)
+	(	11.5	2.065E-11	)
+	(	12	2.003E-11	)
+	(	12.5	1.947E-11	)
+	(	13	1.896E-11	)
+	(	13.5	1.85E-11	)
+	(	14	1.807E-11	)
+	(	14.5	1.766E-11	)
+	(	15	1.729E-11	)
+	(	15.5	1.694E-11	)
+	(	16	1.662E-11	)
+	(	16.5	1.633E-11	)
+	(	17	1.605E-11	)
+	(	17.5	1.579E-11	)
+	(	18	1.554E-11	)
+	(	18.5	1.531E-11	)
+	(	19	1.51E-11	)
+	(	19.5	1.49E-11	)
+	(	20	1.472E-11	)
+	(	20.5	1.455E-11	)
+	(	21	1.438E-11	)
+	(	21.5	1.423E-11	)
+	(	22	1.408E-11	)
+	(	22.5	1.395E-11	)
+	(	23	1.383E-11	)
+	(	23.5	1.371E-11	)
+	(	24	1.36E-11	)
+	(	24.5	1.35E-11	)
+	(	25	1.34E-11	)
+	(	25.5	1.331E-11	)
+	(	26	1.322E-11	)
+	(	26.5	1.314E-11	)
+	(	27	1.306E-11	)
+	(	27.5	1.3E-11	)
+	(	28	1.293E-11	)
+	(	28.5	1.287E-11	)
+	(	29	1.281E-11	)
+	(	29.5	1.276E-11	)
+	(	30	1.271E-11	)
+	(	30.5	1.267E-11	)
+	(	31	1.262E-11	)
+	(	31.5	1.258E-11	)
+	(	32	1.253E-11	)
+	(	32.5	1.249E-11	)
+	(	33	1.246E-11	)
+	(	33.5	1.243E-11	)
+	(	34	1.24E-11	)
+	(	34.5	1.237E-11	)
+	(	35	1.233E-11	)
+	(	35.5	1.231E-11	)
+	(	36	1.229E-11	)
+	(	36.5	1.226E-11	)
+	(	37	1.224E-11	)
+	(	37.5	1.222E-11	)
+	(	38	1.221E-11	)
+	(	38.5	1.219E-11	)
+	(	39	1.217E-11	)
+	(	39.5	1.216E-11	)
+	(	40	1.214E-11	)
+	(	40.5	1.213E-11	)
+	(	41	1.212E-11	)
+	(	41.5	1.211E-11	)
+	(	42	1.21E-11	)
+	(	42.5	1.21E-11	)
+	(	43	1.209E-11	)
+	(	43.5	1.209E-11	)
+	(	44	1.208E-11	)
+	(	44.5	1.208E-11	)
+	(	45	1.208E-11	)
+	(	45.5	1.208E-11	)
+	(	46	1.207E-11	)
+	(	46.5	1.207E-11	)
+	(	47	1.207E-11	)
+	(	47.5	1.207E-11	)
+	(	48	1.207E-11	)
+	(	48.5	1.208E-11	)
+	(	49	1.208E-11	)
+	(	49.5	1.209E-11	)
+	(	50	1.212E-11	)
+	(	50.5	1.216E-11	)
+	(	51	1.223E-11	)
+	(	51.5	1.232E-11	)
+	(	52	1.242E-11	)
+	(	52.5	1.248E-11	)
+	(	53	1.259E-11	)
+	(	53.5	1.274E-11	)
+	(	54	1.293E-11	)
+	(	54.5	1.31E-11	)
+	(	55	1.313E-11	)
+	(	55.5	1.315E-11	)
+	(	56	1.317E-11	)
+	(	56.5	1.319E-11	)
+	(	57	1.321E-11	)
+	(	57.5	1.323E-11	)
+	(	58	1.324E-11	)
+	(	58.5	1.326E-11	)
+	(	59	1.327E-11	)
+	(	59.5	1.329E-11	)
+	(	60	1.33E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	4.9676E-09	)
+	(	0.5	4.5788E-09	)
+	(	1	4.1013E-09	)
+	(	1.5	3.7684E-09	)
+	(	2	3.5174E-09	)
+	(	2.5	3.3192E-09	)
+	(	3	3.1535E-09	)
+	(	3.5	3.0103E-09	)
+	(	4	2.8875E-09	)
+	(	4.5	2.7769E-09	)
+	(	5	2.6785E-09	)
+	(	5.5	2.5874E-09	)
+	(	6	2.5022E-09	)
+	(	6.5	2.4214E-09	)
+	(	7	2.3409E-09	)
+	(	7.5	2.2443E-09	)
+	(	8	2.19706E-09	)
+	(	8.5	1.78961E-09	)
+	(	9	1.09201E-09	)
+	(	9.5	1.04512E-09	)
+	(	10	1.00009E-09	)
+	(	10.5	9.6033E-10	)
+	(	11	9.2427E-10	)
+	(	11.5	8.9165E-10	)
+	(	12	8.6167E-10	)
+	(	12.5	8.3413E-10	)
+	(	13	8.0874E-10	)
+	(	13.5	7.849E-10	)
+	(	14	7.6283E-10	)
+	(	14.5	7.4204E-10	)
+	(	15	7.2261E-10	)
+	(	15.5	7.0426E-10	)
+	(	16	6.8688E-10	)
+	(	16.5	6.7057E-10	)
+	(	17	6.5525E-10	)
+	(	17.5	6.4071E-10	)
+	(	18	6.2696E-10	)
+	(	18.5	6.1399E-10	)
+	(	19	6.017E-10	)
+	(	19.5	5.901E-10	)
+	(	20	5.7908E-10	)
+	(	20.5	5.6875E-10	)
+	(	21	5.5882E-10	)
+	(	21.5	5.4957E-10	)
+	(	22	5.4072E-10	)
+	(	22.5	5.3235E-10	)
+	(	23	5.2437E-10	)
+	(	23.5	5.1689E-10	)
+	(	24	5.098E-10	)
+	(	24.5	5.03E-10	)
+	(	25	4.965E-10	)
+	(	25.5	4.9039E-10	)
+	(	26	4.8458E-10	)
+	(	26.5	4.7916E-10	)
+	(	27	4.7394E-10	)
+	(	27.5	4.689E-10	)
+	(	28	4.6417E-10	)
+	(	28.5	4.5963E-10	)
+	(	29	4.5529E-10	)
+	(	29.5	4.5124E-10	)
+	(	30	4.4729E-10	)
+	(	30.5	4.4353E-10	)
+	(	31	4.3988E-10	)
+	(	31.5	4.3642E-10	)
+	(	32	4.3317E-10	)
+	(	32.5	4.3001E-10	)
+	(	33	4.2694E-10	)
+	(	33.5	4.2397E-10	)
+	(	34	4.212E-10	)
+	(	34.5	4.1843E-10	)
+	(	35	4.1587E-10	)
+	(	35.5	4.1329E-10	)
+	(	36	4.1081E-10	)
+	(	36.5	4.0854E-10	)
+	(	37	4.0626E-10	)
+	(	37.5	4.0398E-10	)
+	(	38	4.0189E-10	)
+	(	38.5	3.9981E-10	)
+	(	39	3.9783E-10	)
+	(	39.5	3.9594E-10	)
+	(	40	3.9406E-10	)
+	(	40.5	3.9227E-10	)
+	(	41	3.9048E-10	)
+	(	41.5	3.8889E-10	)
+	(	42	3.872E-10	)
+	(	42.5	3.856E-10	)
+	(	43	3.8411E-10	)
+	(	43.5	3.8261E-10	)
+	(	44	3.8112E-10	)
+	(	44.5	3.7972E-10	)
+	(	45	3.7842E-10	)
+	(	45.5	3.7702E-10	)
+	(	46	3.7583E-10	)
+	(	46.5	3.7453E-10	)
+	(	47	3.7333E-10	)
+	(	47.5	3.7223E-10	)
+	(	48	3.7103E-10	)
+	(	48.5	3.6992E-10	)
+	(	49	3.6892E-10	)
+	(	49.5	3.6781E-10	)
+	(	50	3.6678E-10	)
+	(	50.5	3.6584E-10	)
+	(	51	3.6477E-10	)
+	(	51.5	3.6378E-10	)
+	(	52	3.6278E-10	)
+	(	52.5	3.6192E-10	)
+	(	53	3.6091E-10	)
+	(	53.5	3.5996E-10	)
+	(	54	3.5897E-10	)
+	(	54.5	3.581E-10	)
+	(	55	3.5727E-10	)
+	(	55.5	3.5655E-10	)
+	(	56	3.5583E-10	)
+	(	56.5	3.5511E-10	)
+	(	57	3.5439E-10	)
+	(	57.5	3.5377E-10	)
+	(	58	3.5316E-10	)
+	(	58.5	3.5254E-10	)
+	(	59	3.5193E-10	)
+	(	59.5	3.5131E-10	)
+	(	60	3.507E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD18532Q5B  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    17.0e-3  
 .PARAM  ptrc2    6.5e-5
 .PARAM  pwidthP  7.094733333
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.11u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
cgs	5	8	1.85e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD
LGG   2  5	 2.1e-9
RGG   5 11	 4.5
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 0.50e-3
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP {1.25e-3-0.865e-3}
RDP   4  7	 {0.92e-3+0.23e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 670
+ UA     = 0.5e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.40        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18         CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.8
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.310e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18    gamma=10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=61
+ IS=8.0e-12 N=1.045 RS=0.55e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18532Q5B
*$
