***********************************************************************
*  (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD1854Q5B
* Date: 06/23/2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS488 - JUNE 2014
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
**********************************************************************
**********************************************************************
*                                                                    *
* CSD18540Q5B   -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+(	0	2.2151E-09	)
+(	0.5	2.2169E-09	)
+(	1	2.2144E-09	)
+(	1.5	2.2095E-09	)
+(	2	2.2051E-09	)
+(	2.5	2.2022E-09	)
+(	3	2.199E-09	)
+(	3.5	2.1968E-09	)
+(	4	2.194E-09	)
+(	4.5	2.193E-09	)
+(	5	2.1919E-09	)
+(	5.5	2.1915E-09	)
+(	6	2.191E-09	)
+(	6.5	2.1905E-09	)
+(	7	2.191E-09	)
+(	7.5	2.1936E-09	)
+(	8	2.1955E-09	)
+(	8.5	2.1976E-09	)
+(	9	2.21452E-09	)
+(	9.5	2.26193E-09	)
+(	10	2.26038E-09	)
+(	10.5	2.25856E-09	)
+(	11	2.25853E-09	)
+(	11.5	2.25737E-09	)
+(	12	2.2571E-09	)
+(	12.5	2.25575E-09	)
+(	13	2.25527E-09	)
+(	13.5	2.25478E-09	)
+(	14	2.25425E-09	)
+(	14.5	2.25369E-09	)
+(	15	2.2541E-09	)
+(	15.5	2.25349E-09	)
+(	16	2.25285E-09	)
+(	16.5	2.25219E-09	)
+(	17	2.25152E-09	)
+(	17.5	2.25183E-09	)
+(	18	2.25112E-09	)
+(	18.5	2.25041E-09	)
+(	19	2.24969E-09	)
+(	19.5	2.24995E-09	)
+(	20	2.24921E-09	)
+(	20.5	2.24845E-09	)
+(	21	2.24769E-09	)
+(	21.5	2.24791E-09	)
+(	22	2.24713E-09	)
+(	22.5	2.24634E-09	)
+(	23	2.24555E-09	)
+(	23.5	2.24574E-09	)
+(	24	2.24494E-09	)
+(	24.5	2.24413E-09	)
+(	25	2.24331E-09	)
+(	25.5	2.24347E-09	)
+(	26	2.24264E-09	)
+(	26.5	2.2418E-09	)
+(	27	2.24095E-09	)
+(	27.5	2.2411E-09	)
+(	28	2.24024E-09	)
+(	28.5	2.23937E-09	)
+(	29	2.2395E-09	)
+(	29.5	2.23862E-09	)
+(	30	2.23773E-09	)
+(	30.5	2.23684E-09	)
+(	31	2.23695E-09	)
+(	31.5	2.23605E-09	)
+(	32	2.23514E-09	)
+(	32.5	2.23424E-09	)
+(	33	2.23433E-09	)
+(	33.5	2.23341E-09	)
+(	34	2.23249E-09	)
+(	34.5	2.23257E-09	)
+(	35	2.23164E-09	)
+(	35.5	2.23071E-09	)
+(	36	2.22977E-09	)
+(	36.5	2.22983E-09	)
+(	37	2.22889E-09	)
+(	37.5	2.22795E-09	)
+(	38	2.228E-09	)
+(	38.5	2.22704E-09	)
+(	39	2.22608E-09	)
+(	39.5	2.22513E-09	)
+(	40	2.22517E-09	)
+(	40.5	2.22421E-09	)
+(	41	2.22324E-09	)
+(	41.5	2.22326E-09	)
+(	42	2.22229E-09	)
+(	42.5	2.22132E-09	)
+(	43	2.22034E-09	)
+(	43.5	2.22036E-09	)
+(	44	2.21939E-09	)
+(	44.5	2.2184E-09	)
+(	45	2.21742E-09	)
+(	45.5	2.21744E-09	)
+(	46	2.21645E-09	)
+(	46.5	2.21546E-09	)
+(	47	2.21547E-09	)
+(	47.5	2.21447E-09	)
+(	48	2.21348E-09	)
+(	48.5	2.21248E-09	)
+(	49	2.21248E-09	)
+(	49.5	2.21149E-09	)
+(	50	2.21048E-09	)
+(	50.5	2.20948E-09	)
+(	51	2.20948E-09	)
+(	51.5	2.20848E-09	)
+(	52	2.20747E-09	)
+(	52.5	2.20746E-09	)
+(	53	2.20645E-09	)
+(	53.5	2.20544E-09	)
+(	54	2.20443E-09	)
+(	54.5	2.20442E-09	)
+(	55	2.20341E-09	)
+(	55.5	2.2024E-09	)
+(	56	2.20139E-09	)
+(	56.5	2.20138E-09	)
+(	57	2.20037E-09	)
+(	57.5	2.19937E-09	)
+(	58	2.19837E-09	)
+(	58.5	2.19737E-09	)
+(	59	2.19737E-09	)
+(	59.5	2.19636E-09	)
+(	60	2.19536E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	2.943E-10	)
+	(	1	2.436E-10	)
+	(	2	2.137E-10	)
+	(	3	1.808E-10	)
+	(	4	1.558E-10	)
+	(	5	1.377E-10	)
+	(	6	1.231E-10	)
+	(	7	1.102E-10	)
+	(	8	9.799E-11	)
+	(	9	6.005E-11	)
+	(	10	2.987E-11	)
+	(	11	2.767E-11	)
+	(	12	2.608E-11	)
+	(	13	2.482E-11	)
+	(	14	2.376E-11	)
+	(	15	2.283E-11	)
+	(	16	2.197E-11	)
+	(	17	2.113E-11	)
+	(	18	2.024E-11	)
+	(	19	1.926E-11	)
+	(	20	1.827E-11	)
+	(	21	1.73E-11	)
+	(	22	1.636E-11	)
+	(	23	1.556E-11	)
+	(	24	1.501E-11	)
+	(	25	1.47E-11	)
+	(	26	1.455E-11	)
+	(	27	1.451E-11	)
+	(	28	1.453E-11	)
+	(	29	1.46E-11	)
+	(	30	1.47E-11	)
+	(	31	1.482E-11	)
+	(	32	1.497E-11	)
+	(	33	1.513E-11	)
+	(	34	1.531E-11	)
+	(	35	1.551E-11	)
+	(	36	1.571E-11	)
+	(	37	1.593E-11	)
+	(	38	1.617E-11	)
+	(	39	1.641E-11	)
+	(	40	1.667E-11	)
+	(	41	1.696E-11	)
+	(	42	1.723E-11	)
+	(	43	1.754E-11	)
+	(	44	1.786E-11	)
+	(	45	1.82E-11	)
+	(	46	1.855E-11	)
+	(	47	1.892E-11	)
+	(	48	1.932E-11	)
+	(	49	1.974E-11	)
+	(	50	2.019E-11	)
+	(	51	2.066E-11	)
+	(	52	2.116E-11	)
+	(	53	2.17E-11	)
+	(	54	2.227E-11	)
+	(	55	2.29E-11	)
+	(	56	2.355E-11	)
+	(	57	2.426E-11	)
+	(	58	2.501E-11	)
+	(	59	2.582E-11	)
+	(	60	2.667E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	5.9167E-09	)
+	(	1	4.9984E-09	)
+	(	2	4.3533E-09	)
+	(	3	3.8692E-09	)
+	(	4	3.5202E-09	)
+	(	5	3.2543E-09	)
+	(	6	3.0389E-09	)
+	(	7	2.8538E-09	)
+	(	8	2.67401E-09	)
+	(	9	2.43995E-09	)
+	(	10	1.45713E-09	)
+	(	11	1.22933E-09	)
+	(	12	1.12992E-09	)
+	(	13	1.05218E-09	)
+	(	14	9.8524E-10	)
+	(	15	9.2637E-10	)
+	(	16	8.7373E-10	)
+	(	17	8.2647E-10	)
+	(	18	7.8406E-10	)
+	(	19	7.4634E-10	)
+	(	20	7.1293E-10	)
+	(	21	6.84E-10	)
+	(	22	6.5904E-10	)
+	(	23	6.3774E-10	)
+	(	24	6.1949E-10	)
+	(	25	6.038E-10	)
+	(	26	5.9055E-10	)
+	(	27	5.7929E-10	)
+	(	28	5.6957E-10	)
+	(	29	5.611E-10	)
+	(	30	5.537E-10	)
+	(	31	5.4718E-10	)
+	(	32	5.4123E-10	)
+	(	33	5.3607E-10	)
+	(	34	5.3129E-10	)
+	(	35	5.2699E-10	)
+	(	36	5.2309E-10	)
+	(	37	5.1957E-10	)
+	(	38	5.1633E-10	)
+	(	39	5.1339E-10	)
+	(	40	5.1063E-10	)
+	(	41	5.0814E-10	)
+	(	42	5.0587E-10	)
+	(	43	5.0376E-10	)
+	(	44	5.0184E-10	)
+	(	45	5.001E-10	)
+	(	46	4.9845E-10	)
+	(	47	4.9698E-10	)
+	(	48	4.9558E-10	)
+	(	49	4.9436E-10	)
+	(	50	4.9321E-10	)
+	(	51	4.9224E-10	)
+	(	52	4.9124E-10	)
+	(	53	4.904E-10	)
+	(	54	4.8963E-10	)
+	(	55	4.889E-10	)
+	(	56	4.8825E-10	)
+	(	57	4.8764E-10	)
+	(	58	4.8709E-10	)
+	(	59	4.8658E-10	)
+	(	60	4.8613E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD18540Q5B  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    5.00e-3  
 .PARAM  ptrc2    20.0e-6
 .PARAM  pwidthP  5.878
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
xcgd	5	10	1	3	cgd
cgs	5	8	1.50e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD {pwidthP/5.788666666666666666666666666666666666666666666667}
LGG   2  5	 2.1e-9
RGG   5 11	 2.75
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 {0.50e-4+1.3e-3*0}
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 1.10e-3
RDP   4  7	 {0.5e-4+0.5e-6}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.205       NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18          CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.85
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7         NCH    = 1.260e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18	gamma	= 10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=4.5 BV=61
+ IS=7.0e-12 N=1.06 RS=0.45e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18540Q5B
*$
*